US07157487B2
(Step 6) Synthesis of methyl 4-((2S,4S)-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-(2-naphthyloxy)-2-pyrrolidinylmethoxy)benzoate
In DMF (10 ml), a mixture of 2-(2-methylphenylamino)-6-benzoxazolylacetic acid (141 mg, 0.50 mmol), methyl 4-((2S,4S)-4-(2-naphthyloxy)-2-pyrrolidinylmethoxy)benzoate (189 mg, 0.50 mmol), EDC•HCl (144 mg, 0.75 mmol), HOBt (101 mg, 0.75 mmol) and triethylamine was stirred at room temperature for 16 hours. The reaction mixture was poured in ice water (30 ml), followed by extraction with ethyl acetate. The extract was washed with ice water and saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was separated and purified by chromatography on a thin-layer silica gel column with (chloroform/acetone (5/1)), whereby the title compound (312 mg, 97%) was obtained as a colorless amorphous substance.

reactant | 2-(2-methylphenylamino)-6-benzoxazolylacetic acid | 0.50 mmol, 141 mg | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)O | C16H14N2O3
reactant | methyl 4-((2S,4S)-4-(2-naphthyloxy)-2-pyrrolidinylmethoxy)benzoate | 0.50 mmol, 189 mg | C1=C(C=CC2=CC=CC=C12)O[C@H]1C[C@H](NC1)COC1=CC=C(C(=O)OC)C=C1 | C23H23NO4
reactant | EDC•HCl | 0.75 mmol, 144 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.75 mmol, 101 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | methyl 4-((2S,4S)-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-(2-naphthyloxy)-2-pyrrolidinylmethoxy)benzoate | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)N2[C@@H](C[C@@H](C2)OC2=CC1=CC=CC=C1C=C2)COC2=CC=C(C(=O)OC)C=C2 | C39H35N3O6
